### PR TITLE
feat: add condKL_compProd_kernel

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add the chain rule for kl divergence generalized for compProd of kernels.
This PR depends on #16 and #19.

### CODE REVIEW

**Comment by RemyDegenne** [comment]
Please merge master in this branch.

File: TestingLowerBounds/KullbackLeibler.lean [hunk 1]
```diff
@@ -496,6 +496,111 @@ lemma kl_fst_add_condKL [StandardBorelSpace β] [Nonempty β] {μ ν : Measure (
...
+    not_iff_not]
+  rw [integrable_congr (kl_compProd_kernel_of_ae_ac_of_ae_integrable h_ac h_ae_int), and_comm]
+  simp_rw [add_comm (kl (κ₁ _) (η₁ _)).toReal]
+  apply integrable_add_iff_of_nonneg
+  · exact StronglyMeasurable.integral_kernel_prod_right' (κ := κ₁)
+      ((measurable_kl κ₂ η₂).ereal_toReal.stronglyMeasurable) |>.aestronglyMeasurable
+  · filter_upwards with a using integral_nonneg (fun b ↦ EReal.toReal_nonneg (kl_nonneg _ _))
+  · filter_upwards with a using EReal.toReal_nonneg (kl_nonneg _ _)
+
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 2]
```diff
@@ -496,6 +496,111 @@ lemma kl_fst_add_condKL [StandardBorelSpace β] [Nonempty β] {μ ν : Measure (
...
+lemma condKL_compProd_kernel_eq_top [CountablyGenerated γ] {κ₁ η₁ : kernel α β}
+    {κ₂ η₂ : kernel (α × β) γ} [IsMarkovKernel κ₁] [IsMarkovKernel η₁] [IsMarkovKernel κ₂]
+    [IsMarkovKernel η₂] [SFinite μ] :
+    condKL (κ₁ ⊗ₖ κ₂) (η₁ ⊗ₖ η₂) μ = ⊤ ↔ condKL κ₁ η₁ μ = ⊤ ∨ condKL κ₂ η₂ (μ ⊗ₘ κ₁) = ⊤ := by
+  simp_rw [condKL_eq_top_iff,
+    Measure.ae_compProd_iff (kernel.measurableSet_absolutelyContinuous _ _)]
+  by_cases h_ac : ∀ᵐ a ∂μ, (κ₁ ⊗ₖ κ₂) a ≪ (η₁ ⊗ₖ η₂) a
+  <;> have h_ac' := h_ac
+  <;> simp only [kernel.absolutelyContinuous_compProd_iff, eventually_and, not_and_or] at h_ac'
+  <;> simp only [h_ac, h_ac', not_false_eq_true, true_or, not_true, true_iff, false_or]
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
    <;> have h_ac' := h_ac
    <;> simp only [kernel.absolutelyContinuous_compProd_iff, eventually_and, not_and_or] at h_ac'
    <;> simp only [h_ac, h_ac', not_false_eq_true, true_or, not_true, true_iff, false_or]
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 3]
```diff
@@ -496,6 +496,111 @@ lemma kl_fst_add_condKL [StandardBorelSpace β] [Nonempty β] {μ ν : Measure (
...
+  swap; tauto
+  rw [← Measure.ae_compProd_iff (kernel.measurableSet_absolutelyContinuous _ _)] at h_ac'
+  by_cases h_ae_int : ∀ᵐ a ∂μ, Integrable (llr ((κ₁ ⊗ₖ κ₂) a) ((η₁ ⊗ₖ η₂) a)) ((κ₁ ⊗ₖ κ₂) a)
+  <;> have h_ae_int' := h_ae_int
+  <;> simp only [eventually_congr (h_ac.mono (fun a h ↦ (kernel.integrable_llr_compProd_iff a h))),
+    eventually_and, not_and_or] at h_ae_int'
+  <;> simp only [h_ae_int, h_ae_int', not_false_eq_true, true_or, true_and, not_true, true_iff,
+    false_or, not_and_or, ae_compProd_integrable_llr_iff h_ac'.2, Measure.integrable_compProd_iff
+    (measurable_kl _ _).ereal_toReal.stronglyMeasurable.aestronglyMeasurable]
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
    <;> have h_ae_int' := h_ae_int
    <;> simp only [eventually_congr (h_ac.mono (fun a h ↦ (kernel.integrable_llr_compProd_iff a h))),
    eventually_and, not_and_or] at h_ae_int'
    <;> simp only [h_ae_int, h_ae_int', not_false_eq_true, true_or, true_and, not_true, true_iff,
    false_or, not_and_or, ae_compProd_integrable_llr_iff h_ac'.2, Measure.integrable_compProd_iff
    (measurable_kl _ _).ereal_toReal.stronglyMeasurable.aestronglyMeasurable]
```

**Review by RemyDegenne — APPROVED** [review]
